US07550478B2
Step 3: tert-butyl {[((2R)-1,4-dioxan-2-ylmethyl)(methyl)amino]sulfonyl}carbamate
1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride (0.760 g, 4.55 mmol), N-[1-{[(tert-butoxycarbonyl)amino]sulfonyl}pyridin-4(1H)-ylidene]-N-methylmethanaminium (1.51 g, 5.00 mmol), and triethylamine (1.55 mL, 11.4 mmol) were slurried in 50 mL dichloromethane and stirred at ambient temperature. After 12 hours, the solution was concentrated in vacuo and purified by silica chromatography (50-100% ethyl acetate/hexanes gradient) to afford the title compound. LRMS (APCI) calc'd for (C11H22N2O6SNa) [M+Na]+, 333.1; found, 333.1.

reactant | 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride | 4.55 mmol, 0.760 g | Cl.O1C(COCC1)CNC
reactant | N-[1-{[(tert-butoxycarbonyl)amino]sulfonyl}pyridin-4(1H)-ylidene]-N-methylmethanaminium | 5.00 mmol, 1.51 g | C(C)(C)(C)OC(=O)NS(=O)(=O)N1C=CC(C=C1)=[N+](C)C
reactant | triethylamine | 11.4 mmol, 1.55 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl {[((2R)-1,4-dioxan-2-ylmethyl)(methyl)amino]sulfonyl}carbamate | O1[C@@H](COCC1)CN(S(=O)(=O)NC(OC(C)(C)C)=O)C | C11H22N2O6S
